US06551831B2
Preparation of 1-Benzyllepidinium Bromide (6).
A solution of lepidine (37.82 g) and benzyl bromide (6.471 g) in acetonitrile (100 mL) were stirred and heated to reflux in an oil bath at 93° C. for 20 hours. Cooled the reaction mixture to room temperature, added ethyl acetate (50 mL) and stirred for 30 min. The resultant solid was collected, washed with ethyl acetate (4×20 mL) and dried in the air. The filtrate was concentrated to a small volume and a second crop of solid was also collected. The combined solid was dried in an oven under high vacuum at 50° C. overnight. There was obtained 11.52 g (96.9%) of product.

reactant | lepidine | 37.82 g | N1=CC=C(C)C2=CC=CC=C12 | C10H9N
reactant | benzyl bromide | 6.471 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 1-Benzyllepidinium Bromide | 11.52 g, 96.9% | [Br-].C(C1=CC=CC=C1)[N+]1=CC=C(C)C2=CC=CC=C12 | InChI=1S/C17H16N.BrH/c1-14-11-12-18(13-15-7-3-2-4-8-15)17-10-6-5-9-16(14)17;/h2-12H,13H2,1H3;1H/q+1;/p-1
